US04547499
2-[4-[4-(2,3-Dihydro-2-oxo-1H-benzimidazol-1-yl)piperidinyl]butyl]-2,4-dihydro-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one
A solution of 2-(4-chlorobutyl)-2,4-dihydro-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one, (1.40 g., 0.005 mole), potassium iodide (0.83 g.; 0.005 mole) and 4-(2-keto-1-benzimidazolinyl)piperidine (2.39 g.; 0.011 mole) in 25 ml. of DMF was warmed to 115° C. and stirred for 4.75 hours. The resulting solution was cooled, poured into saturated sodium bicarbonate aqueous solution and extracted with methylene chloride. The methylene chloride extracts were combined and washed with brine solution, dried over sodium sulfate and concentrated in vacuo. The resulting residue was crystallized from ethyl acetate to give 1.87 g., m.p. 173°-175.5° C. and 0.03 g., m.p. 172°-173° C. of the above named end product. The analytical sample had melting point 174°-175.5° C.

reactant | 2-(4-chlorobutyl)-2,4-dihydro-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one | 0.005 mole, 1.40 g | ClCCCCN1N=C2COC3=C(N2C1=O)C=CC=C3 | C13H14ClN3O2
reactant | potassium iodide | 0.005 mole, 0.83 g | [I-].[K+]
reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 0.011 mole, 2.39 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[4-[4-(2,3-Dihydro-2-oxo-1H-benzimidazol-1-yl)piperidinyl]butyl]-2,4-dihydro-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one | O=C1NC2=C(N1C1CCN(CC1)CCCCN1N=C3COC4=C(N3C1=O)C=CC=C4)C=CC=C2 | C25H28N6O3
